US08871774B2
Formation (1R,3S)-3-(2-chloro-5-fluoropyrimidin-4-ylamino)cyclohexanecarboxylic acid (20)
To a solution of (1R,3S)-ethyl 3-(2-chloro-5-fluoropyrimidin-4-ylamino)cyclohexane-carboxylate, 19, (20.0 g, 66.3 mmol) in THF (150 mL) was added added a solution of LiOH hydrate (8.3 g, 198.8 mmol) in 100 ml water. The reaction mixture was stirred at 50° C. overnight, To the reaction mixture was added HCl (16.6 mL of 12 M solution, 198.8 mmol) and EtOAc. The organic phase was washed with brine and dried over MgSO4 and the solvent was removed under reduced pressure to afford 17.5 g of product that was used without further purification: 1H NMR (300 MHz, CDCl3) δ 7.91 (d, J=2.7 Hz, 2H), 5.24 (d, J=7.3 Hz, 2H), 4.19-4.03 (m, 3H), 3.84-3.68 (m, 3H), 2.59 (ddd, J=11.5, 8.2, 3.6 Hz, 2H), 2.38 (d, J=12.4 Hz, 2H), 2.08 (d, J=9.6 Hz, 6H), 1.99-1.76 (m, 5H), 1.63-1.34 (m, 6H), 1.32-1.15 (m, 4H).

reactant | (1R,3S)-ethyl 3-(2-chloro-5-fluoropyrimidin-4-ylamino)cyclohexane-carboxylate | ClC1=NC=C(C(=N1)N[C@@H]1C[C@@H](CCC1)C(=O)OCC)F | C13H17ClFN3O2
reactant | LiOH hydrate | 198.8 mmol, 8.3 g | O[Li].O
reactant | HCl | 198.8 mmol, 12 M, 16.6 mL | Cl | ClH
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | (1R,3S)-3-(2-chloro-5-fluoropyrimidin-4-ylamino)cyclohexanecarboxylic acid | 17.5 g | ClC1=NC=C(C(=N1)N[C@@H]1C[C@@H](CCC1)C(=O)O)F | C11H13ClFN3O2
